US07514452B2
Preparation of 3-cyano-4-hydroxybenzoic acid
A mixture of methyl 3-cyano-4-methoxybenzoate (70 g) and pyridine hydrochloride (128.3 g) was stirred for 1 hour at 180° C. in an oil bath. Ice-water (1 L) was added to the reaction mixture, and the thus-precipitated crystals were filtered and recrystallized from ethyl acetate, thereby giving 48.1 g of the desired compound.

reactant | methyl 3-cyano-4-methoxybenzoate | 70 g | C(#N)C=1C=C(C(=O)OC)C=CC1OC | C10H9NO3
reactant | pyridine hydrochloride | 128.3 g | Cl.N1=CC=CC=C1
product | 3-cyano-4-hydroxybenzoic acid | 48.1 g | C(#N)C=1C=C(C(=O)O)C=CC1O | C8H5NO3
